US08629137B2
Step 2: 6-(6-chloro-2-methyl-pyrimidine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one
2.48 g (13.0 mmol) 6-chloro-2-methyl-pyrimidine-4-carboxylic acid chloride, 1.94 g (13.0 mmol) 4-methyl-3H-benzoxazol-2-one and 6.93 g (52.0 mmol) aluminium trichloride were heated to 125° C. for 1.5 h with stirring. The mixture was combined with ice water and the precipitate formed was suction filtered and washed with water. Then the precipitate was dissolved in MeOH/DCM and filtered through silica gel suction. The filtrate was evaporated down and the residue was purified by flash chromatography. The fractions containing the product were combined, evaporated down and triturated with diethyl ether. The precipitate was suction filtered, washed with diethyl ether and dried i. vac.

reactant | 6-chloro-2-methyl-pyrimidine-4-carboxylic acid chloride | 13.0 mmol, 2.48 g | ClC1=CC(=NC(=N1)C)C(=O)Cl | C6H4Cl2N2O
reactant | 4-methyl-3H-benzoxazol-2-one | 13.0 mmol, 1.94 g | CC1=CC=CC2=C1NC(O2)=O | C8H7NO2
reactant | aluminium trichloride | 52.0 mmol, 6.93 g | [Cl-].[Cl-].[Cl-].[Al+3]
product | 6-(6-chloro-2-methyl-pyrimidine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one | ClC1=CC(=NC(=N1)C)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C | C14H10ClN3O3
